US04406718
Preparation of bis(2,3-diazidopropyl)adipate
8.52 g (0.06 Mole) 2,3-diazidopropanol in 20-ml dry CCl4 is added dropwise to 5.49 g (0.03 Moles) adipyl chloride in 30-ml dry CCl4 while the temperature is held below 20° C. At the end of the addition, the cooling bath is removed and the temperature is allowed to rise to 25° C. The reaction mixture is allowed to stir at ambient temperature for 18 hours under a slow flow of nitrogen to purge HCl produced in the reaction. At the end of this period the reaction mixture is washed with H2O, dilute bicarbonate solution, and a final H2O wash. The resultant colorless solution is stripped of solvent to yield 9.8 g (83%) colorless oil nD25 1.5050, d425 1.258; infrared spectrum is consistent with the expected structure. Elemental analysis for nitrogen gives 42.01%, theoretical is 42.62%.

reactant | 2,3-diazidopropanol | 0.06 Mole, 8.52 g | N(=[N+]=[N-])C(CO)CN=[N+]=[N-] | C3H6N6O
reactant | adipyl chloride | 0.03 Moles, 5.49 g | C(CCCCC(=O)Cl)(=O)Cl | C6H8Cl2O2
solvent | CCl4 | 20-ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 30-ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | bis(2,3-diazidopropyl)adipate | 9.8 g, 83% | N(=[N+]=[N-])C(COC(CCCCC(=O)OCC(CN=[N+]=[N-])N=[N+]=[N-])=O)CN=[N+]=[N-] | C12H18N12O4
